Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Corgard / Vasotec
 
Attending: ___.
 
Chief Complaint:
incarcerated inguinal hernia
 
Major Surgical or Invasive Procedure:
Left inguinal hernia repair
 
History of Present Illness:
___ with afib on apixiban, CAD s/p CABG, b/l carotid disease, 
COPD/emphysema with recent pneumonia presents for elective left 
inguinal hernia repair (large, with incarcerated sigmoid colon)

 
Past Medical History:
Past Medical History:
BILATERAL MODERATE CAROTID DISEASE 
CONGESTIVE HEART FAILURE 
CORONARY ARTERY DISEASE 
GASTROESOPHAGEAL REFLUX 
HYPERTENSION 
SEVERE EMPHYSEMA 
PULMONARY HYPERTENSION 
RIGHT BUNDLE BRANCH BLOCK 
BENIGN PROSTATIC HYPERTROPHY 
HYPERLIPIDEMIA 
PAROXYSMAL ATRIAL FIBRILLATION 
H/O HISTIOPLASMOSIS 

Past Surgical History:
CARDIOVERSION ___ 
RIGHT LOWER LOBE LOBECTOMY ___ 
CORONARY BYPASS SURGERY ___ 

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Gen: Awake and alert
CV: Irregularly irregular rhythm, normal rate
Resp: CTAB
GI: Soft, appropriately tender near incision, non-distended
Incision clean, dry, and intact with no erythema
Ext: Warm and well perfused
 
Pertinent Results:
 
 
Brief Hospital Course:
Mr. ___ was admitted to ___ 
___ on ___ after undergoing repair of a left 
incarcerated inguinal hernia. For details of the procedure, 
please refer to the operative report. His postoperative course 
was uncomplicated. After a brief stay in the PACU, he was 
transferred to the regular nursing floor. His pain was 
controlled with IV medication. On POD #1, he was started on a 
regular diet, and his pain was controlled with PO pain 
medication. He voided without issue. He was ambulating 
independently in the halls. He was given a bowel regimen, and 
passed flatus. On POD #2, he continued to tolerate his diet, his 
pain was well-controlled on oral medication, and he continued to 
ambulate independently. He was discharged home in stable 
condition on POD #2 with plans to follow-up with Dr. ___. 
 
Discharge Medications:
1. Amiodarone 200 mg PO DAILY 
2. Apixaban 5 mg PO BID 
3. Aspirin 81 mg PO DAILY 
4. Docusate Sodium 100 mg PO BID 
5. Losartan Potassium 25 mg PO DAILY 
6. Omeprazole 10 mg PO DAILY 
7. Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY 
8. Acetaminophen 1000 mg PO Q6H:PRN pain or fever 
Do not exceed 4 grams per day. 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 6 hours 
Disp #*60 Tablet Refills:*0
9. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 4 hours Disp 
#*40 Tablet Refills:*0
10. Senna 17.2 mg PO HS 
Take this while you are taking oxycodone. 
RX *sennosides [Evac-U-Gen (sennosides)] 8.6 mg 1 capsule by 
mouth daily Disp #*30 Tablet Refills:*0
11. Align (bifidobacterium infantis) 4 mg oral DAILY 
12. coenzyme Q10 100 mg oral DAILY 
13. Rosuvastatin Calcium 40 mg PO QPM 
14. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Inguinal hernia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,
It was a pleasure taking care of you here at ___ 
___. You were admitted to our hospital 
after undergoing repair of your inguinal hernia. You have 
recovered from surgery and are now ready to be discharged home. 
Please follow the recommendations below to ensure a speedy and 
uneventful recovery. 
 
ACTIVITY:
- Do not drive until you have stopped taking pain medicine and 
feel you could respond in an emergency.
- You may climb stairs. 
- You may go outside, but avoid traveling long distances until 
you see your surgeon at your next visit.
- Don't lift more than 10 lbs for 6 weeks. (This is about the 
weight of a briefcase or a bag of groceries.) This applies to 
lifting children, but they may sit on your lap.
- You may start some light exercise when you feel comfortable.
- You will need to stay out of bathtubs or swimming pools for a 
time while your incision is healing. Ask your doctor when you 
can resume tub baths or swimming.
- Heavy exercise may be started after 6 weeks, but use common 
sense and go slowly at first.
- You may resume sexual activity unless your doctor has told you 
otherwise.
 
HOW YOU MAY FEEL: 
- You may feel weak or "washed out" for 6 weeks. You might want 
to nap often. Simple tasks may exhaust you.
- You may have a sore throat because of a tube that was in your 
throat during surgery.
- You might have trouble concentrating or difficulty sleeping. 
You might feel somewhat depressed.
- You could have a poor appetite for a while. Food may seem 
unappealing.
- All of these feelings and reactions are normal and should go 
away in a short time. If they do not, tell your surgeon.
 
YOUR INCISION:
- Your incision may be slightly red around the edges. This is 
normal.
- If you have steri strips, do not remove them for 2 weeks. 
(These are the thin paper strips that are on your incision.) But 
if they fall off before that that's okay).
- You may gently wash away dried material around your incision.
- It is normal to feel a firm ridge along the incision. This 
will go away.
- Avoid direct sun exposure to the incision area.
- Do not use any ointments on the incision unless you were told 
otherwise.
- You may see a small amount of clear or light red fluid 
staining your dressing or clothes. If the staining is severe, 
please call your surgeon.
- You may shower. As noted above, ask your doctor when you may 
resume tub baths or swimming.
- Over the next ___ months, your incision will fade and become 
less prominent.
 
YOUR BOWELS:
- Constipation is a common side effect of medicine such as 
Percocet or codeine. If needed, you may take a stool softener 
(such as Colace, one capsule) or gentle laxative (such as milk 
of magnesia, 1 tbs) twice a day. You can get both of these 
medicines without a prescription.
- If you go 48 hours without a bowel movement, or have pain 
moving your bowels, call your surgeon.
- After some operations, diarrhea can occur. If you get 
diarrhea, don't take anti-diarrhea medicines. Drink plenty of 
fluids and see if it goes away. If it does not go away, or is 
severe and you feel ill, please call your surgeon.
 
PAIN MANAGEMENT:
- It is normal to feel some discomfort/pain following abdominal 
surgery. This pain is often described as "soreness". 
- Your pain should get better day by day. If you find the pain 
is getting worse instead of better, please contact your surgeon.
-You will receive a prescription from your surgeon for pain 
medicine to take by mouth. It is important to take this medicine 
as directed. 
- Do not take it more frequently than prescribed. Do not take 
more medicine at one time than prescribed.
- Your pain medicine will work better if you take it before your 
pain gets too severe. 
- If you are experiencing no pain, it is okay to skip a dose of 
pain medicine.
If you experience any of the folloiwng, please contact your 
surgeon:
- sharp pain or any severe pain that lasts several hours
- pain that is getting worse over time
- pain accompanied by fever of more than 101
- a drastic change in nature or quality of your pain
 
MEDICATIONS:
- Take all the medicines you were on before the operation just 
as you did before, unless you have been told differently.
- If you have any questions about what medicine to take or not 
to take, please call your surgeon.

 
Followup Instructions:
___